data/oMe_Silver.jsonl
{"reaction_id": "NR-053_1-C(F)(F)F_2-C(C)(C)C_3-C(F)(F)F_4-CCCC(C)C","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","OO"],"products_smiles": ["Oc1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(C(F)(F)F)cc(C(C)(C)C)c(C(F)(F)F)c1(CCCC(C)C)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
{"reaction_id": "NR-034_1-c1ccccc1_2-c1cnccc1_3-C#N_4-C(F)(F)F","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(c1ccccc1)(c1cnccc1)(O)C(C#N)(C(F)(F)F)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(c1ccccc1)(c1cnccc1)=C(C#N)(C(F)(F)F)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(c1ccccc1)(c1cnccc1)C(C#N)(C(F)(F)F))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(c1ccccc1)(c1cnccc1)C(C#N)(C(F)(F)F)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c1cnccc1)=C(C#N)(C(F)(F)F)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
